US07157487B2
(Step 2) Synthesis of 2-(2-chlorophenylamino)-6-benzoxazolylacetic acid
In THF (200 ml) was dissolved methyl 2-(2-chlorophenylamino)-6-benzoxazolylacetate (3.35 g, 10.6 mmol). After addition of 0.25N NaOH (200 ml), the mixture was stirred at room temperature for 16 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl, followed by extraction with a chloroform/methanol (10/1) mixture. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (2.94 g, 92%) was obtained as a pale brown solid.

reactant | methyl 2-(2-chlorophenylamino)-6-benzoxazolylacetate | 10.6 mmol, 3.35 g | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C16H13ClN2O3
reactant | NaOH | 0.25N, 200 ml | [OH-].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(2-chlorophenylamino)-6-benzoxazolylacetic acid | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C15H11ClN2O3
